US08247595B2
To a solution of 1.0 g of 4-methyl-5-hexynyl methanesulfonate and 1.1 g of (3,3,3-trifluoropropylsulfonyl)acetonitrile in 30 ml of dimethyl sulfoxide was added 0.7 g of potassium carbonate at room temperature. The reaction mixture was stirred at 60° C. for 2 days. The reaction mixture was allowed to stand to cool to nearly room temperature. To the reaction mixture was added 10% hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.45 g of 6-methyl-2-(3,3,3-trifluoropropylsulfonyl)-7-octynenitrile (hereinafter referred to as the present compound (28)).

reactant | 4-methyl-5-hexynyl methanesulfonate | 1.0 g | CS(=O)(=O)OCCCC(C#C)C | C8H14O3S
reactant | (3,3,3-trifluoropropylsulfonyl)acetonitrile | 1.1 g | FC(CCS(=O)(=O)CC#N)(F)F | C5H6F3NO2S
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 6-methyl-2-(3,3,3-trifluoropropylsulfonyl)-7-octynenitrile | 0.45 g | CC(CCCC(C#N)S(=O)(=O)CCC(F)(F)F)C#C | C12H16F3NO2S
